US07745463B2
(2) Preparation of 2-(2-methoxy-4-(methoxycarbonyl)phenoxy)propanoic acid (A02):
Methyl 4-hydroxy-3-methoxybenzoate (1.09 g, 5.98 mmol) and tert-butyl 2-bromopropanoate (1.25 g, 0.97 mL, 5.98 mmol) and cesium carbonate (1.95 g, 5.98 mmol) were added into DMF (10 mL) in a 20 mL microwave vial equipped with a stir bar and sealed. The mixture was heated in Biotage microwave synthesizer for 1 hour at 100° C. The solvent was removed and the remained sticky oil was dissolved in DCM (7 mL) and TFA (7 mL). The mixture was stirred overnight. The reaction mixture was neutralized with sodium bicarbonate and organic layer was separated from the mixture. The aqueous layer was washed with DCM (2×10 mL), combined organics and acidified to around pH5 with 2N HCl. Aqueous was extracted with DCM and then with ethyl acetate, dried with sodium sulfate and concentrated to an oil. The crude product was dissolved in DCM (4 mL) and a pure product (0.530 g) precipitate out from the solution by adding diethyl ether (4 mL).

reactant | Methyl 4-hydroxy-3-methoxybenzoate | 5.98 mmol, 1.09 g | OC1=C(C=C(C(=O)OC)C=C1)OC | C9H10O4
reactant | tert-butyl 2-bromopropanoate | 5.98 mmol, 0.97 mL, 1.25 g | BrC(C(=O)OC(C)(C)C)C | C7H13BrO2
reactant | cesium carbonate | 5.98 mmol, 1.95 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-(2-methoxy-4-(methoxycarbonyl)phenoxy)propanoic acid | COC1=C(OC(C(=O)O)C)C=CC(=C1)C(=O)OC | C12H14O6
